US06693118B2
22a/ 1-bromo-2-(3′-chlorobiphenyl-4-yl)ethanone.
A mixture of 5 g (0.026 mole) of 3-chlorobiphenyl, 50 ml of methylene chloride, 6.95 g (0.034 mole) of bromoacetyl bromide is cooled to 0-5° C. and 4 g (0.030 mole) of aluminium trichloride are added thereto. Stirring is effected for 1 hour at 5° C. and then 4 hours at room temperature. The mixture is poured into a water/ice mixture, extracted with methylene chloride, the organic phase is washed with a 1 N HCl solution, drying is effected over sodium sulphate and the residue is evaporated under reduced pressure. 4.5 g of the title compound are obtained. M.p. 63-65° C.

reactant | 3-chlorobiphenyl | 0.026 mole, 5 g | ClC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Cl
reactant | bromoacetyl bromide | 0.034 mole, 6.95 g | BrCC(=O)Br | C2H2Br2O
reactant | aluminium trichloride | 0.030 mole, 4 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-bromo-2-(3′-chlorobiphenyl-4-yl)ethanone | 4.5 g | BrC(CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)=O | C14H10BrClO
